US07968720B2
[3-(2-Chloro-3,6-difluoro-phenyl)-isoxazol-5-yl]-methanol
A sol. of 2-chloro-3,6-difluoro-benzaldehyde oxime (21.3 g, 111 mmol) in DMF (66.7 mL) was added dropwise to a sol. of NCS (14.9 g, 111 mmol) and pyridine (1.78 mL) in DMF (222 mL). The mixture was stirred for 1 h at rt, and a sol. of propargyl alcohol (4.99 g, 89.1 mmol) in DMF (71 mL) was dropwise added. The reaction mixture was heated to 85° C., and a sol. of Et3N (15.5 mL, 111 mmol) in DMF (89.3 mL) was slowly added. The reaction mixture was stirred at 85° C. for 60 min, and was allowed to cool to rt. The mixture was diluted with water (533 mL), and was extracted with EtOAc (2×). The combined org. extracts were washed with water and brine, were dried over Na2SO4, filtered, and the solvents were removed under reduced pressure. Purification of the residue by FC (EtOAc/heptane 40:60) yielded the title compound (17.0 g, 78%). LC-MS: tR=0.84 min; ES+: 287.12.

reactant | 2-chloro-3,6-difluoro-benzaldehyde oxime | 111 mmol, 21.3 g | ClC1=C(C=NO)C(=CC=C1F)F | C7H4ClF2NO
reactant | NCS | 111 mmol, 14.9 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | propargyl alcohol | 89.1 mmol, 4.99 g | C(C#C)O | C3H4O
reactant | Et3N | 111 mmol, 15.5 mL | CCN(CC)CC | C6H15N
solvent | DMF | 66.7 mL | CN(C)C=O | C3H7NO
solvent | DMF | 222 mL | CN(C)C=O | C3H7NO
solvent | DMF | 71 mL | CN(C)C=O | C3H7NO
solvent | DMF | 89.3 mL | CN(C)C=O | C3H7NO
solvent | water | 533 mL | O | H2O
solvent | pyridine | 1.78 mL | N1=CC=CC=C1 | C5H5N
product | [3-(2-Chloro-3,6-difluoro-phenyl)-isoxazol-5-yl]-methanol | 17.0 g, 78% | ClC1=C(C(=CC=C1F)F)C1=NOC(=C1)CO | C10H6ClF2NO2
